US04442115
Potassium 1-(4-methoxybenzyl)-1H-tetrazole-5-carboxylate (10.0 g) and pyridine (1.8 ml) were stirred together in dry toluene (140 ml) at 10° C. Oxalyl chloride (30.7 ml) was added, and the mixture was stirred at 15° C. for 1 hour. The mixture was filtered and the residual solid was washed with dry toluene (100 ml). The filtrate and washings were combined and evaporated in vacuo to give crude 1-(4-methoxybenzyl)-1H-tetrazole-5-carbonyl chloride, which was used immediately in the next stage.

reactant | Potassium 1-(4-methoxybenzyl)-1H-tetrazole-5-carboxylate | 10.0 g | COC1=CC=C(CN2N=NN=C2C(=O)[O-])C=C1.[K+]
reactant | pyridine | 1.8 ml | N1=CC=CC=C1 | C5H5N
reactant | Oxalyl chloride | 30.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-methoxybenzyl)-1H-tetrazole-5-carbonyl chloride | COC1=CC=C(CN2N=NN=C2C(=O)Cl)C=C1 | C10H9ClN4O2
